US05811408
5) Synthesis of 2'-deoxy-2'-methylidene-4'-thiocytidine [formula [I], B=cytosine, R1, R2, R3 =H]
523 mg of this debenzylated compound was dissolved in 15 ml of methylene chloride, and the solution was cooled to -78° C. under a stream of argon. To this solution was added dropwise a solution prepared by dissolving 271 mg of 80% m-chloroperbenzoic acid in methylene chloride. After the mixture was stirred for 30 minutes, a saturated sodium hydrogencarbonate solution was added to the mixture to terminate the reaction, and the temperature of the mixture was raised to room temperature. The mixture was then extracted with chloroform, and the organic layer was dried. The solvent was evaporated, and the residue was dissolved in 10 ml of acetonitrile. To this solution were added silylated N4 -acetylcytosine (prepared by reacting 644 mg of N4 -acetylcytosine with a catalytic amount of ammonium sulfate for 5 hours in hexamethyldisilazane under reflux) and 0.56 ml of trimethylsilyl triflate, and the mixture was stirred at 0° C. for 30 minutes. A saturated sodium hydrogencarbonate solution was added to the mixture, and the insoluble matter was removed by filtration on Celite. The resultant was extracted three times with chloroform, and the organic layer was dried. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography. The fractions obtained by elution with 1% methanol/chloroform were combined and concentrated, thereby obtaining 200 mg (yield 23%) of the desired compound.

reactant | m-chloroperbenzoic acid | 271 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | N4 -acetylcytosine | 644 mg | C(C)(=O)NC1=NC(NC=C1)=O | C6H7N3O2
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | trimethylsilyl triflate | 0.56 ml | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 2'-deoxy-2'-methylidene-4'-thiocytidine | 200 mg, yield 23% | C=C1[C@@H](S[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C10H13N3O3S
